US08293737B2
a) N-(2,3-Dihydro-1H-inden-2-yl)-5-nitropyridin-2-amine
A mixture of 2-chloro-5-nitropyridine (4 g) and N,N-diisopropylethylamine (3 ml) was heated under reflux in dry ethanol (100 ml) for 2 h. The reaction mixture was cooled to 0° C., the solid which separated was filtered off washed with little cold ethanol, dried to give the product (6.25 g, 88%).

reactant | 2-chloro-5-nitropyridine | 4 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | N,N-diisopropylethylamine | 3 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2,3-Dihydro-1H-inden-2-yl)-5-nitropyridin-2-amine | 6.25 g, 88% | C1C(CC2=CC=CC=C12)NC1=NC=C(C=C1)[N+](=O)[O-] | C14H13N3O2
